US08293913B2
(3aS,6aS)-ethyl 1-(3-(phenylsulfonyl)quinolin-8-yl)hexahydropyrrolo[3,4-b]pyrrole-5(1H)-carboxylate
A solution of 8-fluoro-3-(phenylsulfonyl)quinoline (100 mg, 0.348 mmol), (3aS,6aS)-ethyl hexahydropyrrolo[3,4-b]pyrrole-5(1H)-carboxylate (2R,3R)-2,3-bis(benzoyloxy)succinate (944 mg, 1.74 mmol) and K2CO3 (577 mg) in DMF (3 mL) was stirred under nitrogen and heated at 100° C. for 7 h. The cooled mixture was diluted with 10 mL of saturated NaCl and the resultant precipitate collected and dried to give the title compound.

reactant | 8-fluoro-3-(phenylsulfonyl)quinoline | 0.348 mmol, 100 mg | FC=1C=CC=C2C=C(C=NC12)S(=O)(=O)C1=CC=CC=C1 | C15H10FNO2S
reactant | (3aS,6aS)-ethyl hexahydropyrrolo[3,4-b]pyrrole-5(1H)-carboxylate (2R,3R)-2,3-bis(benzoyloxy)succinate | 1.74 mmol, 944 mg | C(C1=CC=CC=C1)(=O)O[C@@H](C(=O)O)[C@H](C(=O)O)OC(C1=CC=CC=C1)=O.N1[C@H]2[C@@H](CC1)CN(C2)C(=O)OCC
reactant | K2CO3 | 577 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | NaCl | 10 mL | [Na+].[Cl-]
product | (3aS,6aS)-ethyl 1-(3-(phenylsulfonyl)quinolin-8-yl)hexahydropyrrolo[3,4-b]pyrrole-5(1H)-carboxylate | C1(=CC=CC=C1)S(=O)(=O)C=1C=NC2=C(C=CC=C2C1)N1[C@H]2[C@@H](CC1)CN(C2)C(=O)OCC | C24H25N3O4S
